US06753322B2
N-(3-Aminopropyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide
A mixture of methyl 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxylate (Preparation 9) (0.35 g, 0.64 mmol) and 1,3-diaminopropane (0.45 g, 6.1 mmol) was heated at 100° C. for 3 hours. The mixture was dissolved in a little dichloromethane and purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol:concentrated aqueous ammonia (80:20:1.2, by volume) changing to dichloromethane:methanol:concentrated aqueous ammonia (88:12:2, by volume). After evaporation of appropriate fractions the residue was triturated with diethyl ether, filtered and dried to yield the target compound as a white solid, (0.22 g, 58%).

reactant | methyl 6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxylate | 0.64 mmol, 0.35 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)OC)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C28H30N6O6
reactant | 1,3-diaminopropane | 6.1 mmol, 0.45 g | NCCCN | C3H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3-Aminopropyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | 0.22 g, 58% | NCCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H36N8O5
